US03997536
3.0 G. of 4-chloro-5-cyano-2-(4-n-hexyloxyphenyl)-pyrimidine are reacted in 125 ml. of 50% dioxane with 11.0 g. of pre-treated zinc dust and worked up after the reaction in manner analogous to that described in Example 13. There is obtained 5-cyano-2-(4-n-hexyloxyphenyl)-pyrimidine as colorless crystals having a melting point of 93.5°-93.8° C. (smectic); nematic at 121.2° C; clearing point 134.0° C.

reactant | 4-chloro-5-cyano-2-(4-n-hexyloxyphenyl)-pyrimidine | ClC1=NC(=NC=C1C#N)C1=CC=C(C=C1)OCCCCCC | C17H18ClN3O
catalyst | zinc | [Zn] | Zn
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-cyano-2-(4-n-hexyloxyphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCC | C17H19N3O
